US04061773
A solution of 32 g. pimelic acid in 300 g. dry diethyl ether was added portionwise, while stirring, to 40 g. dicyclohexyl carbodiimide in 100 ml. dry diethyl ether. The mixture was stirred for 24 hours and filtered. The filtrate was evaporated to give pimelic anhydride in the form of a thick oil. This was taken up in 150 ml. dry pyridine and treated with 12 g. 2-hydroxymethyl-18α-glycyrrhetinic acid. The solution was stirred and left for 5 days, whereafter it was poured into dilute hydrochloric acid and ice. After stirring the mixture for 1 hour, the gummy precipitate was separated off, dissolved in diethyl ether, washed with dilute hydrochloric acid and water, dried over anhydrous sodium sulphate and treated with charcoal. After filtration and evaporation of the filtrate, there was obtained 2-carboxyhexanoyloxymethyl-18α-glycyrrhetinic acid in the form of a gum.

reactant | pimelic acid | C(CCCCCC(=O)O)(=O)O | C7H12O4
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | pimelic anhydride | C1(CCCCCC(=O)O1)=O | C7H10O3
